US04018794
A mixture of 4-benzoyl-3-n-butoxy-5-sulfamylbenzoic acid (0.94 g), 98% aqueous hydrazine hydrate (1.5 ml), potassium hydroxide (0.5 g) in water (1.0 ml) and diethylene glycol (6.5 ml) is stirred at about 130° C. for 3 hours. The temperature is then slowly raised to 215° C. allowing volatile material to distil off. The stirring at 215° C. is continued for a further 2-3 hours until the nitrogen evolution has ceased. After cooling and dilution with water (10 ml), the resulting solution is acidified with conc. hydrochloric acid (1 ml). The resulting precipitate is collected by filtration and washed with water. After drying and recrystallization twice from aqueous ethanol, 4-benzyl-3-n-butoxy-5-sulfamylbenzoic acid is obtained with a melting point of 228°-229° C.

reactant | 4-benzoyl-3-n-butoxy-5-sulfamylbenzoic acid | 0.94 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)OCCCC | C18H19NO6S
reactant | hydrazine hydrate | 1.5 ml | O.NN
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | water | 1.0 ml | O | H2O
solvent | diethylene glycol | 6.5 ml | C(COCCO)O | C4H10O3
product | 4-benzyl-3-n-butoxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)OCCCC | C18H21NO5S
